US04547501
4,7,8-Trichloro-1-ethyl-[1,2,4]-triazolo[4,3-a]quinoxaline (2.9 g., 0.0096 mole) and 2.1 g. (0.0388 mole) of diethylamine in N,N-dimethylformamide (50 ml.) were stirred at room temperature for 2 hours. The reaction mixture was poured over ice and stirred for 15 minutes. The precipitate was separated by filtration, washed with water and air dried. Recrystallization (three times) from isopropanol then afforded 500 mg. (16% yield) of pure 7,8-dichloro-4-diethylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 147°-149° C.

reactant | 4,7,8-Trichloro-1-ethyl-[1,2,4]-triazolo[4,3-a]quinoxaline | 0.0096 mole, 2.9 g | ClC=1C=2N(C3=CC(=C(C=C3N1)Cl)Cl)C(=NN2)CC | C11H7Cl3N4
reactant | diethylamine | 0.0388 mole | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7,8-dichloro-4-diethylamino-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 16% yield | ClC=1C=C2N=C(C=3N(C2=CC1Cl)C(=NN3)CC)N(CC)CC | C15H17Cl2N5
